US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol (3.0 g, 7.0 mmol) in dichloromethane (150 mL) was added Dess-Martin periodinane (7.4 g, 17.4 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (60 mL). The mixture was extracted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (3×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 20% ethyl acetate/hexanes) to afford 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (1.5 g, 48%) as a light yellow solid: LC/MS m/e calcd for C22H24N2O4S2 [M+H]+ 445.58, observed 444.9.

reactant | 1-(1-benzenesulfonyl-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol | 7.0 mmol, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)SCC)C(CC2CCCC2)O | C22H26N2O3S2
reactant | Dess-Martin periodinane | 17.4 mmol, 7.4 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 1.5 g, 48% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)CC)C(CC2CCCC2)=O | C22H24N2O4S2
